US04031221
By following the manipulative procedure described in Example 2(d), 8.0 g of lithium aluminum hydride in 235 ml. of tetrahydrofuran and 18.0 g of 4-(p-fluorophenoxy)-1-(5-methoxyindol-3-ylglyoxyloyl)piperidine in 190 ml. of tetrahydrofuran are reacted to produce a white solid. The solid is recrystallized twice from 95% ethanol (charcoal treatment) to give white crystals of 3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}5-methoxyindole, m.p. 132°-134° C.

reactant | lithium aluminum hydride | 8.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(p-fluorophenoxy)-1-(5-methoxyindol-3-ylglyoxyloyl)piperidine | 18.0 g | FC1=CC=C(OC2CCN(CC2)C(C(=O)C2=CNC3=CC=C(C=C23)OC)=O)C=C1 | C22H21FN2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-{2-[4-(p-fluorophenoxy)piperidyl]ethyl}5-methoxyindole | FC1=CC=C(OC2CCN(CC2)CCC2=CNC3=CC=C(C=C23)OC)C=C1 | C22H25FN2O2
